US07414063B2
Isoquinoline-5-sulfonic acid tert-butylamide
Powdered isoquinoline-5-sulfonyl chloride hydrochloride (1.00 g, 3.79 mmol) is added in small portions to a stirred solution of tert-butylamine (2.00 mL, 18.9 mmol) in CH2Cl2 (10 mL) at 0° C. under nitrogen. The resultant mixture is allowed to stir at ambient temperature for 1 hour. Ethyl acetate (50 mL) is added to the mixture and the mixture is washed with saturated aqueous NaHCO3 (20 mL). The organic layer is dried over MgSO4, filtered and concentrated. The crude product is chromatographed on silica (gradient 0-2% CH3OH in CH2Cl2) to give 857 mg (3.24 mmol, 86% yield) of the title compound as a white solid. ESIMS: m/z 265 (M+H)+. Analysis for C13H16N2O2S: calcd: C, 59.07; H, 6.10; N, 10.60; found: C, 59.21; H, 6.01; N, 10.67.

reactant | isoquinoline-5-sulfonyl chloride hydrochloride | 3.79 mmol, 1.00 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | tert-butylamine | 18.9 mmol, 2.00 mL | C(C)(C)(C)N | C4H11N
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Isoquinoline-5-sulfonic acid tert-butylamide | 3.24 mmol, 857 mg, 86% yield | C(C)(C)(C)NS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C13H16N2O2S
